US07566784B2
B) tert-Butyl 3-(4-nitrophenyl)-1H-pyrrolo[3,2-c]pyridine-6-carboxylate
To a mixture of 6-tert-butyl 1-ethyl 3-iodo-1H-pyrrolo[3,2-c]pyridine-1,6-dicarboxylate (55 mg, 0.13 mmol) and 4-nitrophenylboronic acid (67 mg, 0.4 mmol) in toluene (3 mL) and ethanol (1.5 mL), was added Pd(PPh3)4, followed by K3PO4 (2 M, 0.4 mL). The resulting mixture was purged with argon, and heated at 75-80° C. for 5 h. The desired product was purified by prep-HPLC to gave a yellow solid (8 mg, 18 % yield). 1H NMR (CDCl3) δ 8.68 (s, 1H), 8.30 (d, 2H, J=8.8 Hz), 8.00 (d, 1H, J=8.8 Hz), 7.36 (s, 1H), 7.25 (s, 1H), 1.51 (s,9H) ; LC-MS: m/z 284 (M-Bu)+.

reactant | 6-tert-butyl 1-ethyl 3-iodo-1H-pyrrolo[3,2-c]pyridine-1,6-dicarboxylate | 0.13 mmol, 55 mg | IC1=CN(C2=C1C=NC(=C2)C(=O)OC(C)(C)C)C(=O)OCC | C15H17IN2O4
reactant | 4-nitrophenylboronic acid | 0.4 mmol, 67 mg | [N+](=O)([O-])C1=CC=C(C=C1)B(O)O | C6H6BNO4
reactant | K3PO4 | 2 M, 0.4 mL | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
catalyst | Pd(PPh3)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-Butyl 3-(4-nitrophenyl)-1H-pyrrolo[3,2-c]pyridine-6-carboxylate | 8 mg, 18 % yield | [N+](=O)([O-])C1=CC=C(C=C1)C1=CNC2=C1C=NC(=C2)C(=O)OC(C)(C)C | C18H17N3O4
